US08957080B2
To a solution of (R)-tert-butyl 3-(4-amino-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate (1.7 g, 3.15 mmol) in 20 ml of DCM, TFA (20 ml) was added. The reaction mixture was stirred at RT for 4 h. The mixture was washed with sat. NaHCO3 (10 mL) and concentrated to give (R)-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1-(piperidin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (1.1 g, 80% yield).

reactant | (R)-tert-butyl 3-(4-amino-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate | 3.15 mmol, 1.7 g | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=C(C(=CC=C2)F)F)F)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C27H27F3N6O3
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1-(piperidin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.1 g, 80% yield | FC1=C(OC2=CC(=C(C=C2)C2=NN(C3=NC=NC(=C32)N)[C@H]3CNCCC3)F)C=CC=C1F | C22H19F3N6O
